US06730674B2
Step 2: 6-(2,4-Dichloro-benzenesulfonyl)-2H-pyridazin-3-one.
A mixture of 6-(2,4-dichloro-phenylsulfanyl)-2H-pyridazin-3-one (418 mg), peracetic acid (3.2 mL) and acetic acid (3.2 mL) was prepared and stirred for 2.5 hours at 80° C. The reaction mixture was then cooled to room temperature and poured into water (50 mL). The resulting white solid was collected and dried to obtain the title product, 6-(2,4-dichloro-benzenesulfonyl)-2H-pyridazin-3-one, (37%, 173 mg); mp, 202-203° C.; NMR 7.15 (d, 1H), 7.81 (dd, 1H), 8.03 (m, 2H), 8.25 (d, 1H), 13.88 (s, 1H).

reactant | 6-(2,4-dichloro-phenylsulfanyl)-2H-pyridazin-3-one | 418 mg | ClC1=C(C=CC(=C1)Cl)SC=1C=CC(NN1)=O | C10H6Cl2N2OS
reactant | peracetic acid | 3.2 mL | C(C)(=O)OO | C2H4O3
reactant | acetic acid | 3.2 mL | C(C)(=O)O | C2H4O2
reactant | water | 50 mL | O | H2O
product | 6-(2,4-dichloro-benzenesulfonyl)-2H-pyridazin-3-one | 173 mg, 37% | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)C=1C=CC(NN1)=O | C10H6Cl2N2O3S
